US07977344B2
6-Amino-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one (Isomer 1)
To a stirring suspension of 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine (814 mg) in methanol (3 ml) was added 4N HCl in dioxan (3 ml). After 3 h, the solvents were evaporated and the residue treated with water and neutralised by addition of saturated sodium bicarbonate with stirring. The resulting cream coloured solid was filtered off, washed with water and dried. The material was suspended in 1:1 ethanol:water (42 ml) but did not dissolve on boiling/stirring. Complete solution was obtained on adding a further 10 ml ethanol. More water (3 ml) was added and the clear solution allowed to cool to room temperature with stirring. The resulting cream coloured solid was filtered, washed with 1:1 ethanol:water (10 ml) and dried, yield 537 mg.

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine | 814 mg | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C16H23N5O3
reactant | HCl | 4N | Cl | ClH
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | water | 3 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
solvent | dioxan | 3 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCC1CC1)CC1COCC1)=O | C15H21N5O3
